Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Elevated Blood Pressures in office
 
Major Surgical or Invasive Procedure:
Vaginal Delivery
 
History of Present Illness:
Ms. ___ is ___ yo G2P0 at 38.4 weeks by LMP who presents from 
the office with elevated blood pressure. The patient reports 
occasional spots in visual fields, but denies floaters. he 
denies a headache, RUQ pain, vaginal bleeding, contractions or 
leakage of fluid. She notes active FM. 
 
Past Medical History:
PNC: EDC ___ by ___ 
A+/ab neg/RPRNR/RI/hep B neg/GBS neg
Full fetal survey: posterior placenta, Size 8 days > dates.  
6.7 x 4.1 x 4.7 cm fibroid right fundus. Exophytic fibroid off
the lower uterine segment measuring 7.1 x 4.7 x 4.6 cm 

AFP reassuring
Neg CF, 100% Hgb electrophoresis
GLT 97

OBHx 1 TAB, no comps
GYNHx: Fibroid uterus. Denies Herpes, GC. Hx Chlamydia in past

PMHx: Denies
PSHx: Denies
 
Social History:
Works as a ___. Married. Denies alcohol, tobacco or 
drug use.
 
Physical Exam:
Exam: 124/73, 152/86, 148/86, 137/95, 147/98, ___,
168/111 
pulse 86
well, NAD
RRR, Lungs clear anteriorly
Abd: gravid, soft, non-tender. Palpable 4x6 cm oblong fibroid at
umbilicus. EFW 7.5#
Ext: soft, non-tender
SVE: posterior, closed/80%
TOCO: none
FHR: 125 + accels, no decels, mod variability
BPP: ___, VTX, AFI: 13 
 
Pertinent Results:
CBC
___ 11:14AM BLOOD WBC-7.5 RBC-3.90* Hgb-12.1 Hct-35.0* 
MCV-90 MCH-30.9 MCHC-34.4 RDW-14.1 Plt ___
___ 07:30PM BLOOD Hct-31.0*
___ 06:30AM BLOOD WBC-7.9 RBC-3.63* Hgb-11.9* Hct-33.5* 
MCV-92 MCH-32.7* MCHC-35.4* RDW-14.1 Plt ___
Cr
___ 11:14AM BLOOD Creat-0.5
___ 06:30AM BLOOD Creat-0.6
LFT's
___ 07:06AM BLOOD ALT-10 AST-19
___ 03:15PM BLOOD ALT-43* AST-47*
___ 06:30AM BLOOD ALT-43* AST-39
Uric Acid
___ 11:14AM BLOOD UricAcd-5.2
___ 06:30AM BLOOD UricAcd-6.0*
 
Brief Hospital Course:
Ms. ___ is a ___ yo G2P0 @ 38.4 weeks who was admitted to L&D 
after having been found to have elevated blood pressures while 
in the office. At the initial time of evaluation, patient denied 
any headache, visual changes of RUQ/epigastric pain.
 
During evaluation in OB Triage, Ms. ___ was found to have 
persistently elevated blood pressures requiring he use of IV 
Labetalol x 2. Given that the patient had normal labs, a 
negative UA for proteinuria and no signs or symptoms of 
preeclampsia, the current diagnosis was gestational hypertension 
superimposed on chronic hypertension. She was started on 
Nifedipine 20mg three times daily with good effect.

Ms. ___ underwent induction of labor and received four 
cytotecs, was augmented with pitocin and progressed to fully 
dilated and +2. On HD#3, the patient delivered a liveborn male, 
weighing 3355g with Apgars of 8, 9. Please see the delivery not 
for full details.

Immediately postpartum, the patient was not re-started on any 
antihypertensives. However, on PPD#2, the patient was noted to 
have elevated blood pressures and was started on Nifedipine CR 
30mg Daily which required titration up to Nifedipine CR 60mg 
Daily. The patient was discharged home on POD #4 in good 
condition on Nifedipine CR 60 mg Daily with directions for 
follow-up. 
 
Medications on Admission:
Prenatal Vitamins
Iron Supplement

 
Discharge Medications:
1. Breast Pump     Device Sig: One (1) double elctric breast 
pump Miscellaneous every four (4) hours: for poor latch.
Disp:*1 pump* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*0*
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for Pain.
Disp:*15 Tablet(s)* Refills:*0*
4. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*60 Tablet(s)* Refills:*0*
5. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.
Disp:*30 Tablet Sustained Release(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Term pregnancy s/p vaginal delivery of live male infant

 
Discharge Condition:
Stable

 
Discharge Instructions:
Routine PP instructions.
 
Followup Instructions:
___